US06743776B2
A solution of 3-[2-(4-morpholinophenylamino)ethyl]-2-oxazolidone (5 g) in 30% hydrobromic acid in acetic acid (35 ml) was stirred for 24 hours at ambient temperature. The reaction mixture was pulverized with diisopropyl ether. The precipitate was collected by filtration and added to ethanol (35 ml). The solution was refluxed for 8 hours and pulverized with diisopropyl ether. The precipitate was collected by filtration to give 1-(4-morpholinophenyl)-piperazine dihydrobromide (7.42 g).

reactant | 3-[2-(4-morpholinophenylamino)ethyl]-2-oxazolidone | 5 g | O1CCN(CC1)C1=CC=C(C=C1)NCCN1[CH-]OCC1=O
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 1-(4-morpholinophenyl)-piperazine dihydrobromide | 7.42 g | Br.Br.O1CCN(CC1)C1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C14H21N3O.2BrH/c1-3-14(17-9-11-18-12-10-17)4-2-13(1)16-7-5-15-6-8-16;;/h1-4,15H,5-12H2;2*1H
